US08536209B2
(E)-N-[2-(5-Acetyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-3-(2-trifluoromethyl-phenyl)-acrylamide
Following general procedure A followed by L, starting from 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and (E)-3-(2-trifluoromethyl-phenyl)-acrylic acid.

reactant | 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C1=CC=C(O1)CN1N=CC(=N1)N | C11H14N4O3
reactant | (E)-3-(2-trifluoromethyl-phenyl)-acrylic acid | FC(C1=C(C=CC=C1)/C=C/C(=O)O)(F)F | C10H7F3O2
product | (E)-N-[2-(5-Acetyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-3-(2-trifluoromethyl-phenyl)-acrylamide | C(C)(=O)C1=CC=C(O1)CN1N=CC(=N1)NC(\C=C\C1=C(C=CC=C1)C(F)(F)F)=O | C19H15F3N4O3
